US06140448
Preparation of [1-(N,N-Dimethylaminoethyl)indenyl]-(cyclopentadienyl)zirconium Dichloride
Example 1 was repeated in the same manner as described except that 1-(N,N-dimethylaminoethyl)indene was substituted for (N,N-dimethylaminoethyl)cyclopentadiene and that cyclopentadienylzirconium trichloride was substituted for pentamethylcyclopentadienylzirconium trichloride. The yield was 35.0%. The physical properties of the product are as follows:

reactant | 1-(N,N-dimethylaminoethyl)indene | CN(C)CCC1C=CC2=CC=CC=C12 | C13H17N
reactant | (N,N-dimethylaminoethyl)cyclopentadiene | CN(C)CCC1=CC=CC1 | C9H15N
reactant | cyclopentadienylzirconium trichloride | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Zr+3]
reactant | pentamethylcyclopentadienylzirconium trichloride | [Cl-].[Cl-].[Cl-].C[Zr](C1C=CC=C1)(C)(C)(C)C
product | [1-(N,N-Dimethylaminoethyl)indenyl]-(cyclopentadienyl)zirconium Dichloride | yield was 35.0% | [Cl-].[Cl-].CN(C)CCC1C(=CC2=CC=CC=C12)[Zr+2]C1C=CC=C1 | InChI=1S/C13H16N.C5H5.2ClH.Zr/c1-14(2)10-9-12-8-7-11-5-3-4-6-13(11)12;1-2-4-5-3-1;;;/h3-7,12H,9-10H2,1-2H3;1-5H;2*1H;/q;;;;+2/p-2
